US08557980B2
A round-bottom flask equipped with a PTFE-coated magnetic stir bar was charged with N-methyliminodiacetic acid (25.0 g, 170 mmol, 1.0 equiv), acetic anhydride (85 mL, ˜850 mmol, ˜5 equiv.), and pyridine (274.9 μL, 3.4 mmol, 0.02 equiv). The flask was capped with a rubber septum which was pierced with an 18 gauge needle (alternatively a reflux condenser could be used). The reaction was lowered into a preheated 70° C. oil bath and stirred until the mixture became clear and dark orange (about 1.5 h). The acetic acid, pyridine, and remaining acetic anhydride were then removed by vacuum distillation (37° C. to 42° C. at 30 Torr). The resulting brown-black liquid was azeotroped three times with toluene (50 mL) to remove residual acetic acid and then transferred to an Erlenmeyer flask. To this flask was added enough diethyl ether to dissolve the crude N-methyl morpholine dione product (˜400 mL). The resulting mixture was filtered to remove a black-brown precipitate, and the filtrate was concentrated in vacuo. The resulting pale yellow solid was then recrystallized from a minimum amount of hot diethyl ether to yield N-methyl morpholine dione (MIDA anhydride; 16.9 g, 131 mmol, 77%) as an off-white crystalline solid.

reactant | N-methyliminodiacetic acid | 170 mmol, 25.0 g, 1.0 equiv | CN(CC(=O)O)CC(=O)O | C5H9NO4
reactant | acetic anhydride | ˜850 mmol, 85 mL, ˜5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | pyridine | 3.4 mmol, 274.9 μL, 0.02 equiv | N1=CC=CC=C1 | C5H5N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-methyl morpholine dione | 131 mmol, 16.9 g, 77% | CN1C(C(OCC1)=O)=O | C5H7NO3
